US05932601
A mixture of 3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamaldehyde (3.0 g), 2,4-oxazolidinedione (1.7 g), piperidine (0.73 g) and acetic acid (50 ml) was stirred for 24 hours under reflux. The reaction mixture was concentrated under reduced pressure, and resulting crystalline precipitate was collected by filtration. The filtrate was dissolved in ethyl acetate. The solution was successively washed with a saturated aqueous solution of sodium hydrogencarbonate, water, 1N HCl and water, followed by drying (MgSO4). The ethyl acetate layer was concentrated under reduced pressure. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with chloroform-methanol (50:1), further crystals were collected, which were combined with the crystalline product obtained above and dissolved in tetrahydrofuran (THF) (100 ml). To the solution was added palladium-carbon (5%, 1.0 g), which was subjected to catalytic hydrogenation under 1 atmospheric pressure at room temperature. The catalyst was filtered off, and the filtrate was concentrated. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with chloroform-methanol (50:1), 5-[3-[3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione was obtained, which was recrystallized from chloroform-ether to give colorless prisms, m.p.119-120° C.

reactant | 3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamaldehyde | 3.0 g | C(C)OC=1C=C(C=CC=O)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C21H19NO4
reactant | 2,4-oxazolidinedione | 1.7 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | piperidine | 0.73 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | 5-[3-[3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | C(C)OC=1C=C(C=CC1OCC=1N=C(OC1)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C24H24N2O6
